US06664291B2
5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzaldehyde
To a solution of 3,5-dichloro-4-(4-methoxy-phenoxy)-nitrobenzene (3.14 g, 10.0 mmol) in TFA (30 ml) was added hexamethylenetetramine (2.10 g, 15.0 mmol). The resulting mixture was stirred at 75° C. for 2 h then concentrated to a viscous oil. The residue was taken up in 30 ml H2O and stirred at RT. To this suspension was added sufficient sat'd aqueous NaHCO3 to neutralize the residual TFA and the mixture was then extracted with EtOAc (3×30 ml). The combined EtOAc extracts were washed with sat'd aqueous NaHCO3 (2×30 ml) and dried over Na2SO4. Dried extracts were filtered and concentrated to give the title compound of step A (3.67 g) as a yellow solid. The title product of Step A was used in the next step without further purification. MS (APCl−) Calc.: 341.0, Found: 340.1 (M−1).

reactant | 3,5-dichloro-4-(4-methoxy-phenoxy)-nitrobenzene | 10.0 mmol, 3.14 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)Cl)[N+](=O)[O-] | C13H9Cl2NO4
reactant | hexamethylenetetramine | 15.0 mmol, 2.10 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzaldehyde | 3.67 g | ClC1=C(OC=2C=CC(=C(C=O)C2)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C14H9Cl2NO5
